US08664220B2
Step 2: 2-Bromo-6-(3-trifluoromethyl-phenyl)-pyridine
Prepared according to the procedure described in Example 42, Step 2, using 4,4,5,5-tetramethyl-2-(3-trifluoromethyl-phenyl)-[1,3,2]dioxaborolane and 2,6-dibromo-pyridine.

reactant | 4,4,5,5-tetramethyl-2-(3-trifluoromethyl-phenyl)-[1,3,2]dioxaborolane | CC1(OB(OC1(C)C)C1=CC(=CC=C1)C(F)(F)F)C | C13H16BF3O2
reactant | 2,6-dibromo-pyridine | BrC1=NC(=CC=C1)Br | C5H3Br2N
product | 2-Bromo-6-(3-trifluoromethyl-phenyl)-pyridine | BrC1=NC(=CC=C1)C1=CC(=CC=C1)C(F)(F)F | C12H7BrF3N
